US05478845
4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-(3-(N-methyl-N-(3,4-methylenedioxyphenyl)carbamoyloxy) propyl)piperidine, hydrochloride
By following the procedure described in example 2B 3-(4-(6-fluoro -1,2-benzisoxazol-3-yl)piperidino)propanol (278 mg, 1 mmol) was reacted with N-methyl-N-(3,4-methylenedioxyphenyl)carbamoylchloride (240 mg, 1.12 mmol) to give 170 mg of the title compound. M.p. 126°-129° C.

reactant | 3-(4-(6-fluoro -1,2-benzisoxazol-3-yl)piperidino)propanol | 1 mmol, 278 mg | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCO)C=C1 | C15H19FN2O2
reactant | N-methyl-N-(3,4-methylenedioxyphenyl)carbamoylchloride | 1.12 mmol, 240 mg | CN(C(=O)Cl)C1=CC2=C(C=C1)OCO2 | C9H8ClNO3
product | 4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-(3-(N-methyl-N-(3,4-methylenedioxyphenyl)carbamoyloxy) propyl)piperidine, hydrochloride | 170 mg | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC(N(C2=CC3=C(C=C2)OCO3)C)=O)C=C1 | InChI=1S/C24H26FN3O5.ClH/c1-27(18-4-6-20-22(14-18)32-15-31-20)24(29)30-12-2-9-28-10-7-16(8-11-28)23-19-5-3-17(25)13-21(19)33-26-23;/h3-6,13-14,16H,2,7-12,15H2,1H3;1H
